.INCLUDE magnz.hl

.SUBCKT mm ET ST kf kr ES E S

  BED  E 0 I = I(ET)-I(ES)
  BES	 S 0 I = I(ST)-I(ES)

  *XNOISE CNN CR inoise
  *XCLMP CR C iclamp

.ENDS mm



.SUBCKT iout A B
  RX A B 0
.ENDS vout


.SUBCKT iin A B
  RX A B 0
.ENDS vin
